US04162246
Bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]phthalate (Compound No. 130)
24.0 g of 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 12.0 g of bis(2,3-epoxypropyl)phthalate and 0.5 g of potassium hydroxide were reacted in 200 ml of N,N-dimethylformamide, following substantially the same procedure as in Example 1. The desired Compound No. 130 was obtained in the form of a white powder, having an Rf value of 0.47 on thin-layer chromatography on silica gel using a 8:1:1:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine as developing solvent.

reactant | 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 24.0 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1C)(C)C)C | C12H21N3O2
reactant | bis(2,3-epoxypropyl)phthalate | 12.0 g | O1C(COC(C=2C(C(=O)OCC3CO3)=CC=CC2)=O)C1 | C14H14O6
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]phthalate | OC(COC(C=1C(C(=O)OCC(CN2C(NC3(C2=O)CC(N(C(C3)(C)C)C)(C)C)=O)O)=CC=CC1)=O)CN1C(NC3(C1=O)CC(N(C(C3)(C)C)C)(C)C)=O | C38H56N6O10
